US06013658
((2R)-2-(tert-Butoxycarbonylmethylamino)-3-phenylpropoxy)acetic acid ethyl ester (0.50 g, 1.42 mmol) was dissolved in THF (4 mL). Lithium boronhydride (1.56 mL of a 2.0 M solution in THF, 3.13 mmol) was added dropwise. Ethanol (8 mL) was added. The reaction mixture was stirred 16 h at room temp. The solution was acidified with 10% citric acid to pH=4. The solvent was removed in vacuo. The residue was dissolved in water (50 mL). This solution was extracted with dichloromethane (3×40 mL). The combined organic layers were dried over magnesium sulfate. The solvent was removed in vacuo. The crude product was purified by flash chromatography on silica (30 g) with dichloromethane/ethyl acetate 1:1 as eluent to give 0.29 g of N-((1R)-1-(2-hydroxyethoxymethyl)-2-phenylethyl)-N-methylcarbamic acid tert-butylester.

reactant | ((2R)-2-(tert-Butoxycarbonylmethylamino)-3-phenylpropoxy)acetic acid ethyl ester | 1.42 mmol, 0.50 g | C(C)OC(COC[C@@H](CC1=CC=CC=C1)NCC(=O)OC(C)(C)C)=O | C19H29NO5
reactant | Lithium | [Li] | Li
reactant | Ethanol | 8 mL | C(C)O | C2H6O
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | N-((1R)-1-(2-hydroxyethoxymethyl)-2-phenylethyl)-N-methylcarbamic acid tert-butylester | 0.29 g | C(C)(C)(C)OC(N(C)[C@H](CC1=CC=CC=C1)COCCO)=O | C17H27NO4
